US09328317B2
C4F9CH2CF2CH2CH2OH was produced by introducing ethylene (25 g, 0.53 mol) was introduced to an autoclave charged with C4F9CH2CF2I (217 g, 0.87 mol) and d-(+)-limonene (1 g), and then the reactor was heated at 240° C. for 12 hours. Product was obtained via vacuum distillation 81˜91° C. at 19˜24 mmHg in 62% yield. Fuming sulfuric acid (70 mL) was added slowly to 50 g of C4F9CH2CF2CH2CH2I and mixture was stirred at 60° C. for 1.5 h. The reaction was quenched with ice-cold 1.5 wt % Na2SO3 aqueous solution and heated at 95° C. for 0.5 h. The bottom layer was separated and washed with 10 wt % aqueous sodium acetate and distilled to provide compound of formula C4F9CH2CF2CH2CH2OH: by 54-57° C. at 2 mmHg (267 Pascals).

reactant | ethylene | 0.53 mol, 25 g | C=C | C2H4
reactant | C4F9CH2CF2I | 0.87 mol, 217 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)CC(F)(F)I | C6H2F11I
reactant | d-(+)-limonene | 1 g | CC1=CC[C@@H](CC1)C(=C)C | C10H16
reactant | C4F9CH2CF2CH2CH2I | 50 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)CC(F)(F)CCI | C8H6F11I
reactant | sulfuric acid | 70 mL | S(O)(O)(=O)=O | H2O4S
product | C4F9CH2CF2CH2CH2OH | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)CC(F)(F)CCO | C8H7F11O
